US07446118B2
To a mixture of MeNH2.HCl (0.60 g, 9 mmol) and KOH (0.1 g, 1.8 mmol) in MeOH (5 ml) was added a solution of 3-(6-Methoxy-1H-Indol-4-yl)-3-phenyl-propionaldeyde CXVIII (0.25 g, 0.89 mmol) in MeOH (6 ml) at RT. The resulting mixture was stirred at room temperature for 5 minutes and NaCNBH4 (21 mg, 0.33 mmol) was added. The reaction mixture was stirred for 45 minutes at room temperature and then quenched with HCl (1M, 50 ml). The resulting mixture was extracted with Et2O (25 ml), and the aqueous layer was basified until pH>12 by addition of a saturated solution of NaOH (50 ml). The aqueous layer was extracted with Et2O (35 ml). The combined organic layers were dried over Na2SO4, filtered, concentrated, and purified via flash chromatography (DCM/MeOH/NH4OH) to afford [3-(6-Methoxy-1H-indol-4-yl)-3-phenyl-propyl]-methyl-amine compound CXIX (33 mg, 13% yield). MS (M+H)=295.

reactant | MeNH2.HCl | 9 mmol, 0.60 g | CN.Cl
reactant | KOH | 1.8 mmol, 0.1 g | [OH-].[K+]
reactant | 3-(6-Methoxy-1H-Indol-4-yl)-3-phenyl-propionaldeyde | COC1=CC(=C2C=CNC2=C1)C(CC=O)C1=CC=CC=C1 | C18H17NO2
solvent | MeOH | 5 ml | CO | CH4O
solvent | MeOH | 6 ml | CO | CH4O
product | [3-(6-Methoxy-1H-indol-4-yl)-3-phenyl-propyl]-methyl-amine | 33 mg, 13% yield | COC1=CC(=C2C=CNC2=C1)C(CCNC)C1=CC=CC=C1 | C19H22N2O
